US03988339
By the procedure of Example 15, 8-amino-1,2,3,4-tetrahydroisoquinoline is converted to 2-acetyl-8-chlorosulfonyl-1,2,3,4-tetrahydroisoquinoline. Reacting with methylamine by the procedure of Example 27 and hydrolyzing to remove the 2-acetyl group gives 8-methylsulfamoyl-1,2,3,4-tetrahydroisoquinoline.

reactant | 8-amino-1,2,3,4-tetrahydroisoquinoline | NC=1C=CC=C2CCNCC12 | C9H12N2
reactant | 2-acetyl-8-chlorosulfonyl-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C=CC=C2CC1)S(=O)(=O)Cl | C11H12ClNO3S
reactant | methylamine | CN | CH5N
product | 8-methylsulfamoyl-1,2,3,4-tetrahydroisoquinoline | CNS(=O)(=O)C=1C=CC=C2CCNCC12 | C10H14N2O2S
